US04931568
3-Hexyloxy-4-butylthiophene
10 g of 3-methoxy-4-butylthiophene, prepared from 3-bromo-4-butylthiophene by reaction with sodium methylate in methanol with catalysis by CuO, b.p. 54° C./0.26 mbar, were dissolved as in Example 14 in 50 cm3 of 1-hexanol and 30 ml of toluene, and 1 g of NaHSO4 was added. After distilling off 6 cm3 of azeotrope, the batch was worked up as in Example 14. Yield 8.5 g of 3-hexyloxy-4-butylthiophene of b.p. 112° to 116° C./0.26 mbar, which corresponds to 60% of theory.

reactant | 3-methoxy-4-butylthiophene | 10 g | COC1=CSC=C1CCCC | C9H14OS
reactant | 3-bromo-4-butylthiophene | BrC1=CSC=C1CCCC | C8H11BrS
reactant | sodium methylate | C[O-].[Na+]
reactant | NaHSO4 | 1 g | OS(=O)(=O)[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | 1-hexanol | 50 cm3 | C(CCCCC)O | C6H14O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Hexyloxy-4-butylthiophene | C(CCCCC)OC1=CSC=C1CCCC | C14H24OS
